US09421205B2
(e) tert-Butyl 3-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I26)
tert-Butyl 3-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I25) (0.302 g, 0.508 mmol) was dissolved in EtOAc (12 mL) and absolute ethanol (8 mL) under an atmosphere of nitrogen. 10% Pd/C (0.250 g) in EtOAc (4 mL) was added to the solution and the atmosphere was changed to hydrogen gas (balloon). The reaction was sealed with a balloon and stirred at room temperature for 18 hours after which the catalyst was removed by filtration through Celite and the solvent was removed in vacuo. The resulting solid was again dissolved in EtOAc (12 mL) and absolute ethanol (8 mL) under an atmosphere of nitrogen and 10% Pd/C (0.250 g) in EtOAc (4 mL) was added to the solution and the atmosphere was changed to hydrogen gas (balloon). The reaction was sealed with a balloon and stirred at room temperature for 24 hours. The catalyst was removed by filtration through Celite, which was washed with EtOAc (7×10 mL) and the solvent was removed in vacuo to give a pale yellow viscous oil. The crude product was purified by silica gel chromatography (Biotage Isolera, 40 g Si Cartridge, 0-50% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I26) (0.249 g, 82% yield) as a pale yellow viscous oil; 1H NMR (400 MHz, d6-DMSO) δ 10.18 (s, 1H), 8.67 (s, 1H), 7.72-7.64 (m, 2H), 7.26-7.16 (m, 6H), 4.02-3.89 (m, 2H), 3.76 (s, 2H), 3.57 (s, 3H), 3.10-2.95 (m, 4H), 2.91-2.66 (m, 2H), 2.61-2.51 (m, 1H), 1.88 (d, J=11.8 Hz, 1H), 1.75-1.54 (m, 2H), 1.43 (m, 10H). LCMS Method C: rt 7.11 min; m/z 599.3 [M+H]+.

reactant | tert-Butyl 3-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.508 mmol, 0.302 g | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C32H33F3N4O4
reactant | ethanol | 8 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 12 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.250 g | [Pd] | Pd
product | tert-Butyl 3-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 82% yield | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C32H37F3N4O4
